US07078405B2
8-(2,4-Dichlorophenyl)-2-ethyl-6-methylimidazo[1,2-a]pyrazine-3-carboxylic acid methyl ester
8-Bromo-2-ethyl-6-methylimidazo[1,2-a]pyrazine-3-carboxylic acid methyl ester (0.30 g, 1.0 mmol) was dissolved in a mixed solvent of toluene (5.6 mL) and methanol (1.4 mL). Then 2,4-dichlorobenzeneboronic acid (0.382 g, 2.0 mmol) and tetrakistriphenylphosphine palladium complex (116 mg, 0.1 mmol) were added thereto, and the mixture was heated under reflux for 4 hours under nitrogen atmosphere. After the reaction mixture was allowed to cool, the solvent was removed. Then the residue was purified by silica-gel column chromatography (n-hexane:ethyl acetate=5:1) to give the title compound (391 mg) as white crystals.

reactant | 8-Bromo-2-ethyl-6-methylimidazo[1,2-a]pyrazine-3-carboxylic acid methyl ester | 1.0 mmol, 0.30 g | COC(=O)C1=C(N=C2N1C=C(N=C2Br)C)CC | C11H12BrN3O2
reactant | 2,4-dichlorobenzeneboronic acid | 2.0 mmol, 0.382 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
solvent | toluene | 5.6 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 1.4 mL | CO | CH4O
product | 8-(2,4-Dichlorophenyl)-2-ethyl-6-methylimidazo[1,2-a]pyrazine-3-carboxylic acid methyl ester | 391 mg | COC(=O)C1=C(N=C2N1C=C(N=C2C2=C(C=C(C=C2)Cl)Cl)C)CC | C17H15Cl2N3O2
